US09371320B2
B) methyl 1-(4-aminophenyl)piperidine-4-carboxylate
To a mixture of methyl 1-(4-nitrophenyl)piperidine-4-carboxylate (3.80 g) and iron powder (3.20 g) in methanol/water (40 mL/10 mL) was added conc. hydrochloric acid (2 mL) at room temperature. The reaction mixture was stirred at 65° C. for 3 hr. The reaction mixture was adjusted to pH=9 with saturated sodium carbonate, and the insoluble substance was removed by the filtration. The filtrate was concentrated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (3.20 g).

reactant | methyl 1-(4-nitrophenyl)piperidine-4-carboxylate | 3.80 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)OC | C13H16N2O4
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol water | 40 mL | CO.O
catalyst | iron | 3.20 g | [Fe] | Fe
product | methyl 1-(4-aminophenyl)piperidine-4-carboxylate | 3.20 g | NC1=CC=C(C=C1)N1CCC(CC1)C(=O)OC | C13H18N2O2
